US04877895
A mixture of 12.3 g (0.138 mol) of β-alanine and of 5.52 g (0.138 mol) of sodium hydroxide in 100 cm3 of water is added to a solution of 20 g (0.092 mol) of N-(4-cyanophenyl)-N'-cyano-S-methylisothiourea in 300 cm3 of 95% ethanol. The mixture is heated to reflux for 4 hours. After cooling, the solution is filtered then concentrated to dryness in vacuo. The residue obtained is dissolved in 200 cm3 of a 2% sodium carbonate solution. The resulting solution is washed by dichloromethane (3×50 cm3) then acidified by a 3N HCl solution until a pH close to 2 is obtained. The white solid formed is filtered, then washed with water (2×10 cm3) and dried in vacuo. After recrystallization in water, 15 g (yield 63%) of N-[cyanoimino(4-cyanophenylamino)methyl]-3-aminopropanoic acid, which is a solid having a melting point of 158°-162° C., are obtained.

reactant | β-alanine | 0.138 mol, 12.3 g | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 0.138 mol, 5.52 g | [OH-].[Na+]
reactant | N-(4-cyanophenyl)-N'-cyano-S-methylisothiourea | 0.092 mol, 20 g | C(#N)C1=CC=C(C=C1)NC(SC)=NC#N | C10H8N4S
solvent | water | 100 cm3 | O | H2O
solvent | ethanol | 300 cm3 | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | N-[cyanoimino(4-cyanophenylamino)methyl]-3-aminopropanoic acid | 15 g, yield 63% | C(#N)N=C(NCCC(=O)O)NC1=CC=C(C=C1)C#N | C12H11N5O2
